US08580816B2
(b) 3-{4-[5-(2-Fluorophenoxy)oxazolo[5,4-b]pyridin-2-yl]-2,6-dimethylphenoxy}-2,2-dimethylpropionic acid
50 mg of palladium on carbon (5%) were added to a solution of 150 mg (41%) of benzyl 3-{4-[5-(2-fluorophenoxy)oxazolo[5,4-b]pyridin-2-yl]-2,6-dimethylphenoxy}-2,2-dimethylpropionate in 7.5 ml of ethyl acetate, and the mixture was hydrogenated at 5 bar for 16 h. The catalyst was filtered off and the filtrate was concentrated. This gave 100 mg (80%) of the title compound.

reactant | benzyl 3-{4-[5-(2-fluorophenoxy)oxazolo[5,4-b]pyridin-2-yl]-2,6-dimethylphenoxy}-2,2-dimethylpropionate | 150 mg | FC1=C(OC2=CC=C3C(=N2)OC(=N3)C3=CC(=C(OCC(C(=O)OCC2=CC=CC=C2)(C)C)C(=C3)C)C)C=CC=C1 | C32H29FN2O5
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
solvent | ethyl acetate | 7.5 ml | C(C)(=O)OCC | C4H8O2
product | 3-{4-[5-(2-Fluorophenoxy)oxazolo[5,4-b]pyridin-2-yl]-2,6-dimethylphenoxy}-2,2-dimethylpropionic acid | FC1=C(OC2=CC=C3C(=N2)OC(=N3)C3=CC(=C(OCC(C(=O)O)(C)C)C(=C3)C)C)C=CC=C1 | C25H23FN2O5
